US04460602
2 ml of trifluoroacetic acid was added slowly to a chilled solution of 20 g of 3-methoxy-4-hydroxybenzonitrile, 50.7 ml of ethyl vinyl ether and 50 ml tetrahydrofuran (THF). The mixture was stirred at room temperature overnight. 7.5 ml of triethylamine was added to the mixture and stirring was continued for several minutes until the solvent was evaporated. The residue was partitioned between 400 ml of diethyl ether and 100 ml 1N NaOH. The diethyl ether layer was washed successively with 100 ml H2O and 100 ml brine, dried over MgSO4 and evaporated to yield 31.2 gm of 3-methoxy-4-(2-ethoxy-1-oxapropyl)benzonitrile.

reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-methoxy-4-hydroxybenzonitrile | 20 g | COC=1C=C(C#N)C=CC1O | C8H7NO2
reactant | ethyl vinyl ether | 50.7 ml | C(=C)OCC | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 7.5 ml | C(C)N(CC)CC | C6H15N
product | 3-methoxy-4-(2-ethoxy-1-oxapropyl)benzonitrile | 31.2 gm | COC=1C=C(C#N)C=CC1OC(C)OCC | C12H15NO3
